US04015011
1-(3'-Acetamino-phenyl)-2-amino-propane hydrochloride by method A
15 gm of 1-(3'-amino-phenyl)-2-amino-propane were dissolved in glacial acetic acid, and ethereal hydrochloric acid was added to the solution. The resulting solution of 1-(3'-amino-phenyl)-2-amino-propane monohydrochloride was admixed with 15 ml of acetic acid anhydride, and the mixture was stirred for 10 minutes at room temperature. Thereafter, the reaction mixture was evaporated in a water aspirator vacuum, whereupon 1-(3'-acetamino-phenyl)-2-amino-propane hydrochloride crystallized out. Recrystallized from ethanol, the product had a melting point of 181°-183° C.

reactant | 1-(3'-amino-phenyl)-2-amino-propane | 15 gm | NC=1C=C(C=CC1)CC(C)N | C9H14N2
reactant | hydrochloric acid | Cl | ClH
reactant | 1-(3'-amino-phenyl)-2-amino-propane monohydrochloride | Cl.NC=1C=C(C=CC1)CC(C)N
reactant | acetic acid anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3'-Acetamino-phenyl)-2-amino-propane hydrochloride | Cl.N(C(=O)C)C=1C=C(C=CC1)CC(C)N | InChI=1S/C11H16N2O.ClH/c1-8(12)6-10-4-3-5-11(7-10)13-9(2)14;/h3-5,7-8H,6,12H2,1-2H3,(H,13,14);1H
